US09108957B2
4-Benzyl-5-phenyl-[1,4]oxazepane was prepared by the same procedure as that of 4-benzyl-5-methyl-[1,4]oxazepane except for utilizing 4-benzyl-5-phenyl-[1,4]oxazepan-3-one instead of 4-benzyl-5-methyl-[1,4]oxazepan-3-one. 4-Benzyl-5-phenyl-[1,4]oxazepane was obtained as colorless oil (0.28 g, 1.0 mmol, 39%).

reactant | 4-benzyl-5-methyl-[1,4]oxazepane | C(C1=CC=CC=C1)N1CCOCCC1C | C13H19NO
reactant | 4-benzyl-5-phenyl-[1,4]oxazepan-3-one | C(C1=CC=CC=C1)N1C(COCCC1C1=CC=CC=C1)=O | C18H19NO2
product | 4-Benzyl-5-phenyl-[1,4]oxazepane | C(C1=CC=CC=C1)N1CCOCCC1C1=CC=CC=C1 | C18H21NO
